US04185023
The reactor described in Example 1 is charged with a mixture of 60.7 g o-benzyl-toluene (5/8 Mol), 607 ml dry acetic acid, 3 g cobalt (II) acetate.4H2O, 0.5 g manganese (II) acetate.4H2O and 3.0 g cobalt (II) bromide.6H2O. The reaction is carried out as described above. The uptake of oxygen is completed after about 3 hours. After the analogous work up 2.2 g anthraquinone (3.2% of theory) and 68.1 g crude o-benzoyl-benzoic acid (90.4% of theory) are recovered; the acid number approaches 226, and the color is medium brown. Heating of a small sample with concentrated sulfuric acid yields a darkly-colored anthraquinone.

reactant | o-benzyl-toluene | 5/8 Mol, 60.7 g | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
reactant | oxygen | O=O | O2
reactant | acetic acid | 607 ml | C(C)(=O)O | C2H4O2
catalyst | cobalt (II) acetate | 3 g | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | manganese (II) acetate | 0.5 g | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
catalyst | cobalt (II) bromide | 3.0 g | [Co](Br)Br
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
